US05686459
7.B)r) (1RS,3SR,3aRS,6aSR)-4-[5-(Benzo[1,3]dioxol-5-ylmethyl)-3-hydroxymethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl]-benzonitrile was prepared from N-piperonylmaleimide, 4-cyano-benzaldehyde and L-serine analogously to Example 4.B)g). ISP-MS: 406 ([M+H]+, 100).

reactant | N-piperonylmaleimide | C(C1=CC=2OCOC2C=C1)N1C(C=CC1=O)=O | C12H9NO4
reactant | 4-cyano-benzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | L-serine | N[C@@H](CO)C(=O)O | C3H7NO3
product | (1RS,3SR,3aRS,6aSR)-4-[5-(Benzo[1,3]dioxol-5-ylmethyl)-3-hydroxymethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl]-benzonitrile | O1COC2=C1C=CC(=C2)CN2C(C1C(C2=O)C(NC1C1=CC=C(C#N)C=C1)CO)=O | C22H19N3O5
